Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Iron
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath on ___ and ___
TEE/cardioversion ___

 
History of Present Illness:
___ w/ hx of chronic angina, HTN, DM, ESRD s/p renal transplant 
now making urine and not on dialysis, and angina presenting with 
chest pain for 2 days. CP is described as substernal, radiating 
to Rt side. Pain is exertional, no pain at rest. Chest pain 
feels diff from prior cp, now described as tightness, prior cp 
felt like pinching. Took Nitro SL x2 last night w/improvement in 
pain, nitro SL x1 this AM didn't help pain. Pt states has also 
had LH/dizziness started last week, became more frequent 2d ago. 
Denies syncope/pre-syncope Sx. Endorses palpitations this AM, 
+DOE and mild SOB at rest. Denies orthopnea, PND, ___ edema, 
vision changes. States dry weight is 162 lbs, he weighed himself 
last week, weighed 160 lbs. Denies missing medications. 
Denies hx of GIB, N/V/D. +chronic constipation. No F/C/NS, 

In the ED, his EKG showed atrial flutter with HR in the 140's. 
He was given metoprolol 5 mg IV x2 and his chest pain resolved. 
He received Dilt IV 15mg x2 and Dilt PO 30mg x1 for tachycardia. 
Patient was given 500cc x2 IVF. 
Labs/studies notable for: Negative Trops x 1, Cr 1.4. 

CXR showed: Stable appearance of the mediastinum with prominence 
of the main pulmonary artery, suggesting pulmonary hypertension. 
Mild cardiomegaly. No focal consolidation. 
 
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. denies recent fevers, chills or rigors. 
denies exertional buttock or calf pain. All of the other review 
of systems were negative.  
 
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  

On presentation to the floor, patient feeling well without 
complaints. 
 
Past Medical History:
1. CARDIAC RISK FACTORS:  
HYPERCHOLESTEROLEMIA  
HYPERTENSION  
DIABETES TYPE II  
 
2. CARDIAC HISTORY:  
- PUMP FUNCTION: >55%  
- PACING/ICD: None.  
- CHRONIC ANGINA  
 
3. OTHER PAST MEDICAL HISTORY:  
CHRONIC OBSTRUCTIVE PULMONARY DISEASE  
h/o ERSD on hemodialysis since ___ bilateral AV fistulae  
s/p cadaveric renal transplant (R) anastomosed to right iliac  
artery/vein on ___  

IMPOTENCE  
LUNG NODULE  
OSTEOPENIA TOE FRACTURE  
BILATERAL KNEE PAIN (RIGHT >LEFT)  
ENLARGED LYMPH NODES    
DEPRESSION  
ALLERGIC RHINITIS H/O GI ULCER  
H/O TOE FRACTURE  
H/O GASTROINTESTINAL BLEEDING  

 
Social History:
___
Family History:
Significant for hypertension in his mother. A granddaughter had 
an unspecified cardiomyopathy at age ___ that required heart 
transplant. Father with diabetes and prostate Ca. Mother with 
DM. Brother with 3x CVAs. 

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
VS: 97.5, 139/82, 54-82, 18, 98% RA
Wt: 70.9 kg
General: NAD
HEENT: NCAT, PERRL, EOMI, mild OP erythema
Neck: +mild JVD
CV: irreg irreg, +II/VI sys murmur greatest at LLSB
Lungs: CTABL no w/c/r
Abdomen: soft, NDNT, no ttp at prior kidney transplant on Rt 
side
Ext: trace ___ edema, wwp, +DPP
Neuro: CNII-XII intact, grossly non-focal
Skin: +palpable former fistula, no bruit 

PHYSICAL EXAM ON DISCHARGE:
===========================
Vitals: T Afebrile, HR: 55-60s BP: 100s-120s/60s-70s RR: ___ 
>95RA
Weight at discharge: 69.8 kg
Weight on admission: 70.9 kg 
Telemetry: now in sinus with pacs.
General: Well built, well nourished male in NAD. 
HEENT: NCAT, PERRL, EOMI, mucous membranes moist.
NECK: Supple, no appreciable JVP.
CV:  sinus, +II/VI systolic murmur greatest at ___
LUNGS: Clear to auscultation bilaterally with no crackles, 
wheezes, or rhonchi. 
Abdomen:  soft, NDNT, nontender to palpation at prior kidney 
transplant on Rt side.
Ext:  no ___ edema, wwp, +DPP
Neuro: CNII-XII intact, grossly non-focal
Skin: +palpable former fistula, no bruit 
Groin:  R femoral artery site nontender, clean, dry, and intact. 
There is no bleeding or hematoma. Distal R/L dorsalis pedis and 
posterior tibial pulses are 1+ bilaterally.
 
Pertinent Results:
LABS ON ADMISSION:
====================
___ 12:00PM BLOOD WBC-7.8 RBC-5.12 Hgb-15.0 Hct-46.1 MCV-90 
MCH-29.3 MCHC-32.5 RDW-13.5 RDWSD-44.4 Plt ___
___ 12:00PM BLOOD ___ PTT-24.9* ___
___ 12:00PM BLOOD Glucose-239* UreaN-26* Creat-1.4* Na-137 
K-4.8 Cl-101 HCO3-23 AnGap-18
___ 07:40AM BLOOD ALT-25 AST-31 AlkPhos-68 TotBili-0.9
___ 12:00PM BLOOD cTropnT-<0.01
___ 09:15PM BLOOD cTropnT-0.11*
___ 07:40AM BLOOD CK-MB-9 cTropnT-0.10*
___ 12:00PM BLOOD Calcium-9.7 Phos-2.2* Mg-1.5*
___ 12:00PM BLOOD TSH-0.80
___ 07:40AM BLOOD tacroFK-7.6 rapmycn-8.2

LABS ON DISCHARGE:
==================
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-143* UreaN-15 Creat-1.3* Na-136 
K-4.0 Cl-102 HCO3-25 AnGap-13
___ 07:45AM BLOOD CK-MB-3 cTropnT-0.50*
___ 07:45AM BLOOD Calcium-9.7 Phos-2.7 Mg-1.8

STUDIES:
============
CXR ___:
IMPRESSION:  
Stable appearance of the mediastinum with prominence of the main 
pulmonary 
artery, suggesting pulmonary hypertension.  Mild cardiomegaly.  
No focal 
consolidation. 

Cardiac cath ___:
Successful DES of RCA
Serial 70% lesions in LVX OM branch and 60% mid LAD
Femoral angiography via the sheath showed severe calcification 
and stenosis of the CFA
Recommendations: Continue aspirin uninterrupted indefinitely; 
clopidogrel minimum 6 months to ___ year
Anticoagulation for AF, optimally warfarin with INR 2.0-2.5
Rate control for AF - consider cardioversion after 3 weeks 
anticoagulation
Consider treatment of right CFA disease if leg claudication

ECHO ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is probably mildly depressed (LVEF= 45 %). 
There is considerable beat-to-beat variability of the left 
ventricular ejection fraction due to an irregular rhythm. There 
is no ventricular septal defect. Right ventricular chamber size 
is normal with mild global free wall hypokinesis. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is a very small pericardial 
effusion. There are no echocardiographic signs of tamponade. 

Compared with the prior study (images reviewed) of ___, 
LV and RV systolic function have probably decreased.  

Catheterization ___:

Coronary Anatomy
Dominance: Right
Left main coronary artery: Normal.
Left anterior descending coronary artery:  There was a 50% 
stenosis 
in the mid LAD. The LAD was otherwise a normal vessel in  its 
proximal and  distal portions. The diagonal branches were free 
of significant disease.
Left circumflex coronary artery:  There was a 70-80% stenosis at 
the orgin of the OMB and a 70% stenosis in the mid portion of  
the large OMB. The AV LCx terminated in a small PLP. 
Right coronary artery: The stents were widely patent in the 
proximal 
and mid RCA.  At the distal portion of the RCA - there was a 
tubular 80% stenosis that led into the PDA and RPL.  
Femoral angiography: Common femoral artery puncture with 
extensive calcification and stenosis in the SFA, profunda 

Interventional Details
The indication for the procedure was recurrent pain after PCI 
and 
NSTEMI. Initial angiography revealed 70% stenosis of the distal 
OM1 and 70% stenosis proximal portion of the OM1. An 80% 
stenosis was also noted at the distal RCA. Final angiography on 
all lesions revealed no residual stenosis, no angiographically 
apparent dissection, no perforation and TIMI 3 flow. The patient 
left the cath lab free  of  angina and  in stable condition.
Impressions
1.  Three vessel coronary artery disease
2.  Successful drug eluting stent of ___ lesion in distal 
RCA
3.  Successful drug eluting stents of the ___
Recommendations
1.  Aspirin and clopidogrel
2.  Medical therapy

Transesophageal Echocardiography ___:
GENERAL COMMENTS: Written informed consent was obtained from the 
patient. A TEE was performed in the location listed above. I 
certify I was present in compliance with ___ regulations. The 
patient was monitored by a nurse in ___ throughout the 
procedure. The patient was monitored by a nurse in ___ 
throughout the procedure. The patient was sedated for the TEE. 
Medications and dosages are listed above (see Test Information 
section). Local anesthesia was provided by benzocaine topical 
spray. The posterior pharynx was anesthetized with 2% viscous 
lidocaine. No glycopyrrolate was administered. No TEE related 
complications. The TEE probe was not passed beyond the 
mid-esophagus. The rhythm appears to be atrial fibrillation. 
Results were reviewed with the Cardiology Fellow involved with 
the patient's care.

Conclusions
The left atrium is dilated. Moderate spontaneous echo contrast 
is seen in the body of the left atrium. No mass/thrombus is seen 
in the left atrium or left atrial appendage. The left atrial 
appendage emptying velocity is depressed (<0.2m/s). The right 
atrium is dilated. No atrial septal defect is seen by 2D or 
color Doppler. LV systolic function appears depressed. There are 
complex (>4mm) atheroma in the descending thoracic aorta (clip 
70). The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen.

CLINICAL IMPLICATIONS: No left atrial or left atrial appendage 
thrombus. Low left atrial appendage velocity with moderate SEC 
in the ___. Mild mitral regurgitation. Complex atheroma in 
the descending aorta. 
 
Brief Hospital Course:
___ year old male with history of chronic angina, HTN, DM, ESRD 
s/p renal transplant on tacro, sirolimus, and prednisone 
presenting with chest pain and shortness of breath found to have 
NSTEMI and atrial fibrillation.

# NSTEMI:
Patient presented with angina, with risk factors including HTN, 
DM, and ESRD. Patient noted to have elevated troponin that 
peaked at 0.11. Patient underwent cardiac catheterization on 
___ and received 3 drug eluting stents to the RCA. Patient 
continued to complain of chest pain, and so underwent 
catheterization on ___ and received a DES to a distal RCA 
lesion and one to the Obtuse marginal branch. Patient was 
continued on aspirin 81 mg and Plavix 75 mg daily. Atorvastatin 
80 mg daily started. The patient was discharged on 12.5mg 
Metoprolol succinate XL. 

# Atrial fibrillation
Patient presented with atrial fibrillation with CHADS score of 
3. He was continued on heparin drip and underwent 
transesophageal echocardiography and cardioversion with 
successful cardioversion to sinus rhythm. Metoprolol was 
adjusted for rate control and patient discharged on dose 
Metoprolol succinate XL 12.5. Warfarin started and bridged to 
therapeutic INR. Goal INR of ___ given other antiplatelet 
agents including aspirin and Plavix. Patient established with 
___ clinic at ___. TSH noted to be 
normal. 

# Systolic heart failure
Patient found to have depressed EF of 45%. Diminished EF with 
contribution from atrial fibrillation that may improve after 
cardioversion. Patient discharged on metoprolol succinate XL 
12.5mg and continued on enalapril. Weight on discharge noted to 
be 69.8kg.

# h/o ERSD s/p renal transplant (baseline Cr 1.3-1.7). 
Cr 1.4 on admission. Renal transplant consulted. Patient 
continued on prednisone 2.5 mg daily, sirolimus 2.5 mg daily, 
and tacrolimus 0.5 mg qAM and 1 mg qPM.
 
# Hypertension:
Patient continued on metoprolol and amlodipine. Enalapril 2.5 mg 
also continued. 
 
# Hypercholsteremia 
He was started atorvastatin 80 mg daily

# Type II Diabetes: 
While in-house, he was continued on glargine instead of detemir 
but should resume glargine at home. 

# COPD
Continued albuterol and Spiriva.

# BPH
Held home doxazosin while inpatient but continued on discharge
 
# GERD
His home omeprazole 20 mg daily was discontinued (but 
unfortunately his discharge worksheet does not reflect this) due 
to interaction of omeprazole with Plavix. He was started on 
pantoprazole 40 mg daily in place of omeprazole.

TRANSITIONAL ISSUES:
==========================
-weight on discharge: 69.8kg
-metoprolol succinate at 12.5 mg daily on discharge
-Plavix 75 mg daily started
-aspirin 81 mg daily started
-warfarin 3 mg daily started for goal INR ___ (given dual 
anti-platelet agents)
-Please consider BMP on ___ at follow-up appointment to assess 
renal function at time of follow up. He will also need repeat 
INR.
-Repeat TTE in ___ weeks to assess for recovery of LVEF 
post-cardioversion

# CODE: FULL (CONFIRMED)
# CONTACT: ___ (HCP, no phone #) ; ___ 
___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. amLODIPine 5 mg PO BID 
3. Atorvastatin 40 mg PO QPM 
4. Doxazosin 4 mg PO DAILY 
5. Enalapril Maleate 2.5 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
7. Furosemide 20 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
10. Omeprazole 20 mg PO DAILY 
11. ZEMplar (paricalcitol) 1 mcg oral DAILY 
12. PredniSONE 2.5 mg PO DAILY 
13. Sirolimus 1 mg PO DAILY 
14. Tacrolimus 0.5 mg PO QAM 
15. Tacrolimus 1 mg PO QHS 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Aspirin 81 mg PO DAILY 
18. Humalog 3 Units Breakfast
detemir 8 Units Bedtime
19. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
2.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Warfarin 3 mg PO DAILY16 
RX *warfarin 3 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Glargine 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
8.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
9.  Albuterol Inhaler ___ PUFF IH Q6H:PRN sob  
10.  Aspirin 81 mg PO DAILY  
11.  Doxazosin 4 mg PO DAILY  
12.  Enalapril Maleate 2.5 mg PO DAILY  
13.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
14.  Furosemide 20 mg PO DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
17.  Omeprazole 20 mg PO DAILY  
18.  PredniSONE 2.5 mg PO DAILY  
19.  Sirolimus 1 mg PO DAILY 
Daily dose to be administered at 6am  
20.  Tacrolimus 0.5 mg PO QAM  
21.  Tacrolimus 1 mg PO QHS  
22.  Tiotropium Bromide 1 CAP IH DAILY  
23.  ZEMplar (paricalcitol) 1 mcg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
NSTEMI s/p catheterization and stenting.
Systolic heart failure
Atrial fibrillation s/p TEE cardioversion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital with chest pain and were found to have 
a heart attack. You had a procedure called cardiac 
catheterization that opened up the blocked vessel in your heart 
with a stent. It is very important that you take Plavix and 
aspirin every day and not miss any doses to keep the stent open. 
Missing a dose of these medications could result in a heart 
attack. Please do not stop taking these medications unless told 
so by your heart doctor.

You were also found to have a condition called atrial 
fibrillation or a rapid heart rate. You were started on a 
medication called warfarin a blood thinner that will help 
prevent a stroke. You will need to have routine blood tests to 
monitor the level of blood thinner in your blood. You had a 
procedure called a cardioversion that helped your heart return 
to a normal rhythm. Your home metoprolol was decreased because 
your heart rate was well-controlled. 

You were also found to have systolic heart failure or decreased 
pump function of your heart. It is very important for you to 
weigh yourself every morning and call your heart doctor if your 
weight goes up by more than 3 lbs. in 2 days. Your weight on 
discharge was 69.8 kg (153 pounds).

Additionally, we have stopped your omeprazole and replaced it 
with a medication called pantoprazole for your reflux. We have 
also decreased your home amlodipine to 5 mg once a day from 
twice a day in order to add a new medication (Imdur) which will 
help prevent chest pain.  

It was a pleasure being involved in your care,

Your ___ Team

 
Followup Instructions:
___